US04596872
5,6-Dihydro-8-[4-(1H-imidazol-1-yl)phenyl]imidazo[1,2-a]-pyridine
Combine 50 g (0.25 mol) of 4-chloro-4'-fluorobutyrophenone with 120 g (1.76 mol) of imidazole, and heat to 175° C. for 18 hr. Isolation of the product from 500 g of silica gel, followed by crystallization from ethyl acetate, provides the title compound.

reactant | 4-chloro-4'-fluorobutyrophenone | 0.25 mol, 50 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | imidazole | 1.76 mol, 120 g | N1C=NC=C1 | C3H4N2
product | 5,6-Dihydro-8-[4-(1H-imidazol-1-yl)phenyl]imidazo[1,2-a]-pyridine | N1(C=NC=C1)C1=CC=C(C=C1)C=1C=2N(CCC1)C=CN2 | C16H14N4
